US05308853
2-Butyl-1-(4-carbomethoxybenzyl)-5-formylimidazole (J. Med. Chem. 1991; 34:1514-17)
A solution of 1.00 g (0.003 mole) of 2-butyl-1-(4-carbomethoxybenzyl)-4-chloro-5-formylimidazole in 75 mL of methanol is reduced at low pressure with hydrogen and 0.30 g of 5% Pd/carbon in the presence of 0.30 g of potassium acetate to give product; mp 62°-64° C.; tlc (1:1 hexane-ethyl acetate) 1 spot, Rf 0.2; MS (CI) 301 (M+ +1).

reactant | 2-butyl-1-(4-carbomethoxybenzyl)-4-chloro-5-formylimidazole | 0.003 mole, 1.00 g | C(CCC)C=1N(C(=C(N1)Cl)C=O)CC1=CC=C(C=C1)C(=O)OC | C17H19ClN2O3
reactant | hydrogen | [H][H] | H2
reactant | potassium acetate | 0.30 g | C(C)(=O)[O-].[K+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | methanol | 75 mL | CO | CH4O
catalyst | Pd carbon | 0.30 g | [Pd].[C]
product | 2-Butyl-1-(4-carbomethoxybenzyl)-5-formylimidazole | C(CCC)C=1N(C(=CN1)C=O)CC1=CC=C(C=C1)C(=O)OC | C17H20N2O3
